### PR TITLE
feat: swap arguments to `Membership.mem` 

### PR DESCRIPTION
**Pull request by mattrobball**
We swap the arguments for `Membership.mem` so that when proceeded by a `SetLike` coercion, as is often the case in Mathlib, the resulting expression is recognized as eta expanded and reduce for many computations. The most beneficial outcome is that the discrimination tree keys for instances and simp lemmas concerning subsets become more robust resulting in more efficient searches. 

Closes `RFC` #4932

### CODE REVIEW

**Comment by mattrobball** [comment]
I should have clean CI for the PR branch of mathlib and all but one core tests are passing. I will try to fix that later tonight and highlight the less-than-desirable changes.

**Comment by mattrobball** [comment]
awaiting-review

**Comment by mattrobball** [comment]
@TwoFX and @semorrison I attempted to apply the label for awaiting review but it failed. 

There is now a working branch of mathlib. I created leanprover-community/mathlib4#15870 to, at the moment, provide an interface to highlight anything surprising.

File: src/Std/Tactic/BVDecide/LRAT/Internal/Formula/RupAddResult.lean [hunk 1]
```diff
@@ -1120,7 +1120,7 @@ theorem nodup_derivedLits {n : Nat} (f : DefaultFormula n)
   have li_in_derivedLits : li ∈ derivedLits := by
     have derivedLits_rw : derivedLits = (Array.mk derivedLits).data := by simp only
     simp only [derivedLits_arr_def, li]
-    conv => rhs; rw [derivedLits_rw]
+    conv => rhs; simp (config := {singlePass := true}) only [derivedLits_rw]
```
Comment (semorrison) [inline src/Std/Tactic/BVDecide/LRAT/Internal/Formula/RupAddResult.lean:1123]: @hargoniX, could you review this? This was the first hacky thing that made it work again. I didn't look to see what is going on.
